US07906530B2
3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol
In a Schlenk tube a mixture of 4-bromo-3-methylphenol (805 mg, 4.23 mmol), 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2]bi[[1,3,2]dioxaborolanyl] (1.64 g, 6.45 mmol), [1,1′-bis(diphenyl-phosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (344 mg, 0.42 mmol) and potassium acetate (2.1 g, 21 mmol) in N,N-dimethyl formamide (15 mL) was heated at 80° C. for 18 hours. The cooled mixture was diluted with ethyl acetate, washed with water, brine and dried over sodium sulphate. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica flash, using hexane/ethyl acetate (7:1) as eluents, to yield the title compound (617 mg, 63%) as a white solid.

reactant | 4-bromo-3-methylphenol | 4.23 mmol, 805 mg | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2]bi[[1,3,2]dioxaborolanyl] | 6.45 mmol, 1.64 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | dichloromethane | 0.42 mmol, 344 mg | ClCCl | CH2Cl2
reactant | potassium acetate | 21 mmol, 2.1 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 617 mg, 63% | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
